US08309581B2
e) 2-(4-Cyano-3-fluoro-phenoxymethyl)-benzoic acid methyl ester
The title compound was prepared in analogy to Example 40, intermediate e, from 2-fluoro-4-hydroxy-benzonitrile (CAS Reg. No. 82380-18-5) and 2-bromomethyl-benzoic acid methyl ester (CAS Reg. No. 2417-73-4). Off-white solid (91%). MS (Turbo Spray): m/z=286.1 (M+H).

reactant | 2-fluoro-4-hydroxy-benzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | 2-bromomethyl-benzoic acid methyl ester | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
product | 2-(4-Cyano-3-fluoro-phenoxymethyl)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)COC1=CC(=C(C=C1)C#N)F)=O | C16H12FNO3
